US08865698B2
To a methanol (1 mL) solution of (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide (5.2 mg, 0.013 mmol) was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide hydrochloride (5.7 mg, 0.013 mmol, 101% yield) as a yellow solid.

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide | 0.013 mmol, 5.2 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)O | C20H20F2N6O2
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide hydrochloride | 0.013 mmol, 5.7 mg, 101% yield | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)O | InChI=1S/C20H20F2N6O2.ClH/c21-12-3-4-15(22)14(8-12)17-2-1-6-27(17)18-5-7-28-19(25-18)16(9-23-28)24-20(30)26-10-13(29)11-26;/h3-5,7-9,13,17,29H,1-2,6,10-11H2,(H,24,30);1H/t17-;/m1./s1
